US08791132B2
To a degassed stirred solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 4-fluorophenylboronic acid (81 mg, 0.578 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-dimethoxyethane (4 mL)-water (2 mL) was added Pd(PPh3)4 (17 mg, 0.0147 mmol). The reaction mixture was stirred at 90° C. for 45 min. The reaction mixture concentrated to dryness, residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 5-(2-(4-fluorophenyl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.3 (s, 1H), 7.17 (d, 1H), 7.02 (d, 1H), 6.8-6.98 (m, 4H), 4.7 (d, 1H), 4.3 (d, 1H), 3.65 (m, 1H), 3.41 (m, 1H), 2.9-3.18 (m, 7H), 2.52-2.77 (m, 2H), 2.45 (s, 3H), 2.21 (m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 4-fluorophenylboronic acid | 0.578 mmol, 81 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0147 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(4-fluorophenyl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | FC1=CC=C(C=C1)C1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C24H25FN2
